US07109219B2
5-(2-(3,3-Diethylureido)pyridin-4-ylamino)indole-1-carboxylic acid phenylamide
5-(2-Aminopyridin-4-ylamino)indole-1-carboxylic acid phenylamide (69 mg, 0.20 mmol) was dissolved in tetrahydrofuran (14 ml); triethylamine (0.055 ml, 0.40 mmol) was added thereto; and phenyl chloroformate (0.038 ml, 0.30 mmol) was added thereto while cooling with ice and stirring. A portion of 7.0 ml of the reaction mixture was transferred to another vessel and concentrated under reduced pressure. After the residue was dissolved in N,N-dimethylformamide (1.0 ml), the similar reaction to Example 27 was performed by use of diethylamine (0.031 ml, 0.30 mmol). The obtained crude product was purified by TLC plate (Fuji Silysia NH, developing solvent: ethyl acetate) to yield the title compound (2.0 mg, 0.005 mmol) as pale yellow crystals.

reactant | 5-(2-Aminopyridin-4-ylamino)indole-1-carboxylic acid phenylamide | 0.20 mmol, 69 mg | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1)N | C20H17N5O
reactant | triethylamine | 0.40 mmol, 0.055 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.30 mmol, 0.038 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | diethylamine | 0.30 mmol, 0.031 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 5-(2-(3,3-Diethylureido)pyridin-4-ylamino)indole-1-carboxylic acid phenylamide | 0.005 mmol, 2.0 mg | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1)NC(=O)N(CC)CC | C25H26N6O2
